Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
shellfish derived / ragweed pollen
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
___
Coronary artery bypass grafting x3 with the left
internal mammary artery to left anterior descending artery,
and reverse saphenous vein graft to the posterior descending
artery and the diagonal artery.

 
History of Present Illness:
___ year old male w/ multivessel CAD s/p MI ___ at ___ with a
history of possible stent thrombosis, most recent PCI ___ at
___ with NSTEMI s/p DES to the LCx.  
 The patient states that around 8PM on ___ he experienced
mid-sternal chest pressure with some left arm tingling. He has 
no
nausea, vomiting, lightheadedness, palpitations or dyspnea. He
had just eaten a large dinner so he thought it could be
indigestion. When it persisted, he took 81 mg PO aspirin and
presented to ___.  
 BPon arrival was 214/120 -> 154/94. ECG there showed sinus
rhythm with STD in I, aVL, and V5 and possible J-point elevation
in III. Q waves present in III and aVF. Labs were notable for
troponin I 3.710 and WBC 11.7, but otherwise normal CBC, chem
panel and LFTs. He was given 342mg PO aspirin, nitro 0.4mg SL
(with resultant improvement in BP) and lovenox ___ SC. He
refused Plavix load. He has been chest pain free since nitro SL. 


 On the floor, he was chest pain free and without complaint. He
reports only having angina with significant exertion. He admits
to some medication non-adherence over the past few days,
including prasugrel and atorvastatin.  He was most recently
admitted to ___ in ___ for NSTEMI. Cardiac cath showed
diffuse CAD with complete occlusion of distal LAD, 80% circ
lesion and 100% stenosis in mid-distal RCA. DES was placed to 
LCx
at the time and he was discharged on prasugrel ___ year) and 
ASA.
Course was notable for possible EtOH abuse, but no signs of
withdrawal, and HTN medication changes. He underwent cardiac 
cath
today which revealed significant 3VD. 

 
Past Medical History:
HTN
CAD s/p stent in ___ ___) and ?in-stent thrombosis
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.  
 
Physical Exam:
Pulse:78 Resp: 18 O2 sat:98% RA 
B/P  Right:cath site    Left:150/70 
Height:  5ft 8"   Weight:230lbs 

General:
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] grade ______ 
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+
[]umbilical hernia scar well healed
Extremities: Warm xwell-perfused [x]  Edema trace [] _____
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right:+1   Left:+1
DP           Right:trace   Left:trace
___           Right:trace   Left:trace
Radial       Right:cath site   Left:+1

Carotid Bruit        Right:None    Left:None

 
Pertinent Results:
Intra-op TEE ___
Conclusions   
PreBypass
The right atrium is dilated. No atrial septal defect is seen by 
2D or color Doppler. There is mild symmetric left ventricular 
hypertrophy. The left ventricular cavity size is normal. There 
is mild regional left ventricular systolic dysfunction with 
basal inferior and inferoseptal wall hypokinesis. Right 
ventricular chamber size and free wall motion are normal. There 
are simple atheroma in the descending thoracic aorta. The aortic 
valve leaflets (3) are mildly thickened. There is no aortic 
valve stenosis. No aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. Mild (1+) mitral 
regurgitation is seen. There is no pericardial effusion. These 
findings were discussed with Dr. ___ at the time of exam in the 
operating room.

PostBypass
The patient is in SR on a phenylephrine infusion. There are no 
new regional wall motion abnormalities. No new valvular 
dysfunction. The aortic contours are intact following 
decannulation. The rest of the exam is unchanged from prebyass.

___ 06:40AM BLOOD WBC-14.5* RBC-4.16* Hgb-11.7* Hct-35.4* 
MCV-85 MCH-28.1 MCHC-33.1 RDW-14.6 RDWSD-45.3 Plt ___
___ 07:05AM BLOOD WBC-17.7* RBC-4.14* Hgb-11.4* Hct-35.7* 
MCV-86 MCH-27.5 MCHC-31.9* RDW-14.6 RDWSD-46.1 Plt ___
___ 03:08AM BLOOD WBC-15.0* RBC-3.88* Hgb-10.8* Hct-33.2* 
MCV-86 MCH-27.8 MCHC-32.5 RDW-14.7 RDWSD-45.8 Plt ___
___ 06:40AM BLOOD Glucose-102* UreaN-27* Creat-1.2 Na-137 
K-3.9 Cl-98 HCO3-31 AnGap-12
___ 03:00PM BLOOD Na-137 K-3.9 Cl-94*
___ 07:05AM BLOOD Glucose-122* UreaN-22* Creat-1.2 Na-135 
K-3.7 Cl-94* HCO3-32 AnGap-13
___ 03:08AM BLOOD Glucose-115* UreaN-28* Creat-1.4* Na-135 
K-4.5 Cl-101 HCO3-24 AnGap-15
___ 05:16PM BLOOD Glucose-140* Na-136 K-5.2* Cl-103
___ 11:24AM BLOOD UreaN-34* Creat-1.6* Na-137 K-4.4 Cl-106 
HCO3-22 AnGap-13
___ 07:15AM BLOOD WBC-13.8* RBC-4.25* Hgb-12.1* Hct-35.9* 
MCV-85 MCH-28.5 MCHC-33.7 RDW-14.6 RDWSD-44.3 Plt ___
___ 07:15AM BLOOD Glucose-123* UreaN-28* Creat-1.3* Na-136 
K-3.8 Cl-97 HCO3-28 AnGap-15
 
Brief Hospital Course:
The patient was brought to the Operating Room on ___ where 
the patient underwent CABG x 3 with Dr. ___. See operative note 
for full details. Overall the patient tolerated the procedure 
well and post-operatively was transferred to the CVICU in stable 
condition for recovery and invasive monitoring. POD 1 found the 
patient extubated, alert and oriented and breathing comfortably. 
The patient was neurologically intact and hemodynamically 
stable. Beta blocker was initiated and titrated up and the 
patient was gently diuresed toward the preoperative weight. 
Pragurel was not restarted due to grafts bypassed per Dr. ___. 
The patient was transferred to the telemetry floor for further 
recovery. Chest tubes and pacing wires were discontinued without 
complication. The patient had pain issues and medications were 
adjusted. The patient was evaluated by the physical therapy 
service for assistance with strength and mobility. By the time 
of discharge on POD 4 the patient was ambulating freely, the 
wound was healing and pain was controlled with oral analgesics. 
The patient was discharged home with ___ services in good 
condition with appropriate follow up instructions.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. valsartan-hydrochlorothiazide 160-25 mg oral DAILY 
2. Prasugrel 10 mg PO DAILY 
3. Metoprolol Succinate XL 200 mg PO DAILY 
4. Spironolactone 25 mg PO DAILY 
5. Cialis (tadalafil) 10 mg oral DAILY:PRN ED 
6. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN cp 

 
Discharge Medications:
1. Aspirin EC 81 mg PO DAILY 
2. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
3. Metoprolol Tartrate 25 mg PO TID 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth three times a 
day Disp #*90 Tablet Refills:*0
4. TraMADol 50 mg PO Q4H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth Q 6 hours Disp #*60 
Tablet Refills:*0
5. Furosemide 20 mg PO DAILY Duration: 7 Days 
RX *furosemide [Lasix] 20 mg 1 tablet(s) by mouth daily Disp #*7 
Tablet Refills:*0
6. Potassium Chloride 20 mEq PO DAILY Duration: 7 Days 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth daily Disp 
#*7 Tablet Refills:*0
7. Ranitidine 150 mg PO BID 
RX *ranitidine HCl [Acid Control (ranitidine)] 150 mg 1 
tablet(s) by mouth twice a day Disp #*60 Tablet Refills:*0
8. Rosuvastatin Calcium 20 mg PO QPM 
RX *rosuvastatin [Crestor] 20 mg 1 tablet(s) by mouth Q HS Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
CAD
PMH:
HTN, ? alcohol abuse, gout, 
Past Surgical History
s/p stent in ___ ___) and ?in-stent thrombosis, DES 
to
LCx ___ at ___ 
Umbilical  hernia 

 
Discharge Condition:
Alert and oriented x3 non-focal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
Trace Edema 

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
 Please NO lotions, cream, powder, or ointments to incisions
 Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
 No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
 No lifting more than 10 pounds for 10 weeks
 Please call with any questions or concerns ___
 **Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___